US05869500
8-(4-Benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid benzyl-(2-methoxy-ethyl)-amide
From 8-[p-(benzyloxy)phenyl]-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid with SOCl2 and DMF in toluene. Then treatment with triethylamine and benzyl-(2-methoxy-ethyl)-amine in dichloromethane.

reactant | 8-[p-(benzyloxy)phenyl]-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(=O)O)SC=C3)=O | C25H17NO4S
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | benzyl-(2-methoxy-ethyl)-amine | C(C1=CC=CC=C1)NCCOC | C10H15NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 8-(4-Benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid benzyl-(2-methoxy-ethyl)-amide | C(C1=CC=CC=C1)N(C(=O)C=1C=C(C(N2C=CC3=C(C12)SC=C3)=O)C3=CC=C(C=C3)OCC3=CC=CC=C3)CCOC | C35H30N2O4S
